US08378104B2
Step C: 4,5-dibromopyridine-3-carbaldehyde
To a cooled (−78° C.) solution of 4,5-dibromonicotinic acid ethyl ester (6 g, 19 mmol) in DCM was added diisobutylaluminum hydride (1 M in toluene, 38.8 mL, 38.8 mmol) dropwise. The mixture stirred for 3 h at −78° C. 1.5 N aqueous hydrochloric acid was added at −78° C. and then the mixture stirred at room temperature for 1 h. The reaction mixture was extracted with DCM. The organic fraction was washed with brine, dried over sodium sulfate, filtered, and concentrated to afford the crude title compound, which was used without further purification.

reactant | 4,5-dibromonicotinic acid ethyl ester | 19 mmol, 6 g | C(C)OC(C1=CN=CC(=C1Br)Br)=O | C8H7Br2NO2
reactant | diisobutylaluminum hydride | 38.8 mmol, 1 M, 38.8 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 1.5 N | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4,5-dibromopyridine-3-carbaldehyde | BrC1=C(C=NC=C1Br)C=O | C6H3Br2NO
